US04029801
1-[3-(1-Naphthoxy)-2-hydroxyprop-1-yl]-4-benzamidopiperidine
3-(α-Naphthoxy)-1-chloropropan-2-ol (1.18 g.) was refluxed for 16 hours in isopropyl alcohol (100 ml.) with 4-benzamidopiperidine (1.032 g.) and anhydrous potassium carbonate (1.037 g.). The mixture was filtered hot, cooled and evaporated to dryness. The gum so obtained gave the title compound as a solid on triturating in ether, m.p. 139°-141° C. (Found: C, 74.1; H, 7.1; N, 6.9. C25H28N2O3 requires C, 74.2; H, 7.0; N, 6.9%).

reactant | 3-(α-Naphthoxy)-1-chloropropan-2-ol | 1.18 g | C1(=CC=CC2=CC=CC=C12)OCC(CCl)O | C13H13ClO2
reactant | 4-benzamidopiperidine | 1.032 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | potassium carbonate | 1.037 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 1-[3-(1-Naphthoxy)-2-hydroxyprop-1-yl]-4-benzamidopiperidine | C1(=CC=CC2=CC=CC=C12)OCC(CN1CCC(CC1)NC(C1=CC=CC=C1)=O)O | C25H28N2O3
